US08648099B2
Preparation of 5-(4-chloro-phenyl)-N-(1,1-dioxido-4-thiomorpholinyl)-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 4-thiomorpholinamine 1,1-dioxide (CAN 26494-76-8) as starting materials; MS (EI) 464.1 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 4-thiomorpholinamine 1,1-dioxide | N1(CCS(CC1)(=O)=O)N | C4H10N2O2S
product | 5-(4-chloro-phenyl)-N-(1,1-dioxido-4-thiomorpholinyl)-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCS(CC1)(=O)=O | C18H17ClF3N3O4S
